US04028404
Cyclobutyl p-tolyl ketone
Cyclobutylcarbonyl chloride (23.8 g.) in dry toluene (25 ml) was added dropwise during 1 hour to a stirred suspension of anhydrous aluminium chloride (29.4 g) in dry toluene (150 ml). After stirring a further 20 minutes, the mixture was poured into iced water (1 l) and the organic layer was separated, washed with water, dried over magnesium sulphate, filtered and evaporated. The residue was distilled under reduced pressure and the fraction b.p. 79-80°/0.03 mm was collected. On standing the product solidified and the solid had m.p. 32°-34°.

reactant | Cyclobutylcarbonyl chloride | 23.8 g | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | aluminium chloride | 29.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | 1 l | O | H2O
reactant | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | Cyclobutyl p-tolyl ketone | C1(=CC=C(C=C1)C(=O)C1CCC1)C | C12H14O
